US05556853
In substantially the same manner as in Example 5, morpholine (1.41 ml) and Boc-L-Tyr(Bzl)-OH (6.00 g, manufactured by Peptide Institute, Inc.) were condensed to give N-(O-benzyl-Boc-L-tyrosyl)morpholine (8.10 g) as a white powder (yield quantitative). After Boc group elimination with TFA, the product was condensed with (2S,3S)-ethyl hydrogen trans-epoxysuccinate (2.76 g) as obtained in Reference Example 8 to yield the title compound (compound 58; 6.14 g) as a white powder (yield 81%).

reactant | morpholine | 1.41 ml | N1CCOCC1 | C4H9NO
reactant | Boc-L-Tyr(Bzl)-OH | 6.00 g | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C21H25NO5
product | N-(O-benzyl-Boc-L-tyrosyl)morpholine | 8.10 g | C(C1=CC=CC=C1)OC1=CC=C(C[C@H](NC(=O)OC(C)(C)C)C(=O)N2CCOCC2)C=C1 | C25H32N2O5
